US04010177
In the manner given in Preparation 10, 7-chloro-5-phenyl-3H-1,4-benzodiazepine-2-yl hydrazine is reacted with bromoacetyl chloride and after 1.5 hours with sodium acetate, then refluxed to give 8-chloro-1-(bromomethyl)6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine. Preparation 12 8-Fluoro-1-(Chloromethyl)-6-(o-fluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine

reactant | 7-chloro-5-phenyl-3H-1,4-benzodiazepine-2-yl hydrazine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=CC=CC=C2)C1 | C15H13ClN4
reactant | bromoacetyl chloride | BrCC(=O)Cl | C2H2BrClO
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
product | 8-chloro-1-(bromomethyl)6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CBr)C3=CC=CC=C3)C1 | C17H12BrClN4
